US07365079B2
(5) Preparation of 3,4-diamino-1-phenyl-1H-pyrazole
To a solution of 3-amino-4-nitro-1-phenyl-1H-pyrazole (200 mg, 0.98 mmol) in methanol (30 mL) were added conc. hydrochloric acid (0.5 mL) and 10% palladium-carbon (20 mg), and the mixture was stirred for 1.5 hours at room temperature under a hydrogen atmosphere. After removal of the catalyst by filtration, the filtrate was concentrated, and aqueous sodium bicarbonate solution was added to the resulting residue. The solution was extracted 5 times with chloroform, and the chloroform layer was dried over anhydrous magnesium sulfate, and then concentrated in vacuo. Diisopropyl ether was added to the resulting residue, and the precipitates were collected by filtration and dried to obtain the title compound (101 mg, 58.6%).

reactant | 3-amino-4-nitro-1-phenyl-1H-pyrazole | 0.98 mmol, 200 mg | NC1=NN(C=C1[N+](=O)[O-])C1=CC=CC=C1 | C9H8N4O2
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | 3,4-diamino-1-phenyl-1H-pyrazole | 101 mg, 58.6% | NC1=NN(C=C1N)C1=CC=CC=C1 | C9H10N4
